US09029388B2
B) N2-[4-(benzyloxy)phenyl]-4-methylpyridine-2,3-diamine
To a mixture of zinc (40.2 g), THF (50 ml) and acetic acid (100 ml) was added slowly a solution of N-[4-(benzyloxy)phenyl]-4-methyl-3-nitropyridin-2-amine (13.75 g) in THF (150 ml), and the obtained mixture was stirred at room temperature for 30 min. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate) and recrystallized from hexane/ethyl acetate to give the title compound (8.77 g).

reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | N-[4-(benzyloxy)phenyl]-4-methyl-3-nitropyridin-2-amine | 13.75 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC(=C1[N+](=O)[O-])C | C19H17N3O3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | zinc | 40.2 g | [Zn] | Zn
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N2-[4-(benzyloxy)phenyl]-4-methylpyridine-2,3-diamine | 8.77 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC(=C1N)C | C19H19N3O
